data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH+:21]C(C)(N)O.[OH2:10]>>CC(N)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C2=CC=CC=C21)OC)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CO[C:24]1=[CH:23][CH:22]=[C:21](C2=CC=CC=C21)[N+](=O)[O-] 10=20;20,21=21,22;22,23=23,24
[H:20][OH+:21]P(C)(C)(C)Cl.[OH2:10]>>[H:20][OH2+:10].CP(C)(C)([OH:21])Cl 10=20;20,21=21
[CH:20](=[OH+:21])O.[F-:10].[Cl-]>>[CH:20](O)([OH:21])[F:10].[Cl-] 10=20;20,21=21
[CH2:20](C(=O)O[Ca]O)[Cl:21].[NH3:10]>>[CH2:20](C(=O)O[Ca]O)[NH3+:10].[Cl-:21] 10=20;20,21=21
[H:20][O:21][S+:22](C)C.[Cl-:10]>>[H:20][Cl:10].C[S:22](=[O:21])C 10=20;20,21=21,22
C1=CC=C([CH:11]=[CH:10]1)[NH3+].O[S+:20](=O)=O>>C1=C[CH:10]([CH+:11]C(=C1)[NH3+])[S:20](=O)(=O)O 10,11=10,20
C(C[OH:10])C(=O)O.[O:21]=[S:20](Cl)Cl>>C(C[OH+:10][S:20]([O-:21])(Cl)Cl)C(=O)O 10=20;20,21=21
C[Si-:10](C)(C)(OCC#C)[Cl:11]>>C[Si:10](C)(C)OCC#C.[Cl-:11] 10,11=11
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH2:20][CH:10]2C[CH2:11]2>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].[CH2:20]=[CH:10]C[CH2+:11] 10,11=10,20;20,21=21
CC1(CCC=C1)[OH:10].[O:21]=[P:20](Cl)(Cl)Cl>>CC1(CCC=C1)[OH+:10][P:20]([O-:21])(Cl)(Cl)Cl 10=20;20,21=21
CC1CCC2C([CH:11]([O:12]C3C24C1CCC(O3)(OO4)C)[O:10][C:20](=[O+:21][Zn-](Cl)Cl)C5=CC=CC=C5)C.C[Si](C)(C)CC#C>>CC1CCC2C([CH:11]=[O+:12]C3C24C1CCC(O3)(OO4)C)C.C1=CC=C(C=C1)[C:20](=[O:10])[O:21][Zn-](Cl)Cl.C[Si](C)(C)CC#C 10,11=10,20;20,21=21;12=11
C[S+:20](C)Cl.C1CC(=O)[N-:10]C1=O>>C[S:20](C)([N:10]1C(=O)CCC1=O)Cl 10=20
CC(=O)OCC1C(C(C(C(O1)[O+:11](C2=CC=C(C=C2)OC)[K-:10]Cl)OC(=O)C)OC(=O)C)OC(=O)C.CCO>>CC(=O)OCC1C(C(C(C(O1)[O:11]C2=CC=C(C=C2)OC)OC(=O)C)OC(=O)C)OC(=O)C.Cl[K:10].CCO 10,11=11
CC(C)CO[C:20](=[O:21])Cl.[NH3:10]>>CC(C)CO[C:20]([NH3+:10])([O-:21])Cl 10=20;20,21=21
C[Si-:10](C)(C)(OC1=CC=CC=C1)[Cl:11]>>C[Si:10](C)(C)OC1=CC=CC=C1.[Cl-:11] 10,11=11
[H:20][CH:21](C(C)O)[N+](=O)[O-].[OH-:10]>>[H:20][OH:10].CC([CH-:21][N+](=O)[O-])O 10=20;20,21=21
[CH3:20][I:21].C1CC[NH:10]C1>>[CH3:20][NH+:10]1CCCC1.[I-:21] 10=20;20,21=21
C[S:20][Cl:21].[OH2:10]>>C[S:20][OH2+:10].[Cl-:21] 10=20;20,21=21
[H:20][OH2+:21].CCNC[CH:10]=[C:11]([O-:12])OC>>[H:20][CH:10](CNCC)[C:11](=[O:12])OC.[OH2:21] 10,11=10,20;20,21=21;12=11
CCC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)C3CCCCC3)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)C3CCCCC3)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CC1(C2CCC(C2)([C:10]1(C3=C(C=C(C=C3)Cl)N)[OH+:11]C)C)C.[Cl-]>>CC1(C2CCC(C2)([C+:10]1C3=C(C=C(C=C3)Cl)N)C)C.C[OH:11].[Cl-] 10,11=11
[H:20][O+:21](CC)C(C1=CC=CC=C1)C(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C1=CC=CC=C1)C(C)C 10=20;20,21=21
C[S+:20](O)[OH:10]>>C[S:20](=[OH+:10])O 10=20,
C(CO)CO[S:20](=O)(C(F)(F)F)([O-:10])[O:21]S(=O)(=O)C(F)(F)F>>C(CO)CO[S:20](=O)(=[O:10])C(F)(F)F.C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
[B:20](F)(F)F.CCC[O:10]C>>[B-:20]([O+:10](C)CCC)(F)(F)F 10=20,
CCCCCCO[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCCCCCO[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
CCOC(=O)C=C(C1=CC=CC=C1)[O-:10].C1=CC=C(C=C1)C2=C([C:20]2=[O:21])C3=CC=CC=C3.C1CCC2=[NH+]CCCN2CC1>>CCOC(=O)C=C(C1=CC=CC=C1)[O:10][C:20]2(C(=C2C3=CC=CC=C3)C4=CC=CC=C4)[O-:21].C1CCC2=[NH+]CCCN2CC1 10=20;20,21=21
CC(C1=CC=CC=C1)[NH2:10].COC1=C(C(=CC(=C1)C[C:20](=[O:21])Cl)OCC2=CC=CC=C2)OC.O.O[Na]>>CC(C1=CC=CC=C1)[NH2+:10][C:20](CC2=CC(=C(C(=C2)OCC3=CC=CC=C3)OC)OC)([O-:21])Cl.O.O[Na] 10=20;20,21=21
[H:20][N+:21](=CC)C.C[C:10](=C)[Mg:11]Br>>[H:20][C:10](=C)C.CC=[N:21]C.[Mg+:11]Br 10,11=10,20;20,21=21
[H:20][O:21]C=O.C1=CC2=C(C=C1)C(=[O:10])C(=C(C2=O)N)O.C[S+](C)[O-]>>[H:20][O+:10]=C1C2=C(C=CC=C2)C(=O)C(=C1O)N.C(=O)[O-:21].C[S+](C)[O-] 10=20;20,21=21
CCCCC1[CH2:20][O:21]1.C1=CC=C(C=C1)[S-:10].CCO.[Na+]>>CCCCC([CH2:20][S:10]C1=CC=CC=C1)[O-:21].CCO.[Na+] 10=20;20,21=21
[Li-]([NH+](C(C)C)C(C)C)[O+:21]([C:20]1=[C-:10]C=CC=C1)S(=O)(=O)C(F)(F)F>>C1=C[C:10]#[C:20]C=C1.[Li-]([NH+](C(C)C)C(C)C)[O:21]S(=O)(=O)C(F)(F)F 10=20;20,21=21
CC[O:11][Si-:10](C)(C)(C)O[Si](C)(C)C.CCCC[N+](CCCC)(CCCC)CCCC.CCO.O>>CC[O-:11].C[Si:10](C)(C)O[Si](C)(C)C.CCCC[N+](CCCC)(CCCC)CCCC.CCO.O 10,11=11
[H:20][C:21](CCC)(C(C1=CC=C(C=C1)[N+](=O)[O-])O)[C:22](=[N+:23]2CCCC2C3=NN=NN3)C4=C(C=CC(=C4)Br)O.C(=O)(C(F)(F)F)[O-:10].O>>[H:20][O:10]C(=O)C(F)(F)F.CCC[C:21](=[C:22](C1=C(C=CC(=C1)Br)O)[N:23]2CCCC2C3=NN=NN3)C(C4=CC=C(C=C4)[N+](=O)[O-])O.O 10=20;22,23=23;20,21=21,22
C[C:20](C)([NH:10]O)[OH2+:21]>>C[C:20](=[NH+:10]O)C.[OH2:21] 10=20;20,21=21
C1=CC=C(C=C1)C([CH:20](C2=CC=CC=C2)[Cl:21])[O-:10]>>C1=CC=C(C=C1)C2[CH:20]([O:10]2)C3=CC=CC=C3.[Cl-:21] 10=20;20,21=21
[H:20][I:21].C[Si](C)(C)C[C:11]#[CH:10]>>[H:20][CH:10]=[C+:11]C[Si](C)(C)C.[I-:21] 10,11=10,20;20,21=21
C[C:11](=[CH2:10])[O-:12].C[N:23]=[CH:22][CH:21]=[CH2:20]>>C[C:11](=[O:12])[CH2:10][CH2:20][CH:21]=[CH:22][N-:23]C 10,11=10,20;12=11;22,23=23;20,21=21,22
